US08580762B2
Ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(6-((2,4-dimethoxybenzyl)amino)-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate (0.06 g, 0.1 mmol) was taken up in acetonitrile (2.6 mL, 50 mmol) and isopropyl iodide (0.098 mL, 0.98 mmol) and triethylamine (0.21 mL, 1.5 mmol) were added. The reaction was heated to 80° C. for 12 hours at which point the reaction appeared to stall. Another 15 equivalents triethylamine and another 15 equivalents isopropyl iodide were added and the reaction continued 8 hours more. Reaction appeared to have stalled again so another 15 equivalents each of isopropyl iodide and triethylamine were added. Upon consumption of the starting material the reaction was concentrated and saturated Na2CO3 (20 mls) and DCM (20 mls) was added. The residue was partitioned between the organic layer and the aqueous layer. The aqueous layer was extracted 3 times with DCM, then the combined organics were dried and purified by FC (DCM/7N NH3 in MeOH 97:3). Product was still contaminated with TEA-H+I−, so to a 30 ml solution of the product in DCM was added 20 mls saturated NaHCO3 and 10 mls 1N NaOH. The mixture was stirred for 15 minutes then the aqueous was extracted with DCM 3 times. The combined organics were dried with MgSO4 and solvent removed to yield pure ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(6-((2,4-dimethoxybenzyl)amino)-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoate (0.045 g; 70%) as a brown foam/solid with no more amine salts present by NMR. MS (ESI+) for C35H50N6O6 z 651.3 [M+H]+.

reactant | Ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(6-((2,4-dimethoxybenzyl)amino)-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 0.1 mmol, 0.06 g | COC1=C(CNC2=C3N=CN(C3=NC=N2)[C@@H]2C[C@@H]([C@@H]3[C@H]2OC(O3)(C)C)CNC3CC(C3)CCC(=O)OCC)C=CC(=C1)OC | C32H44N6O6
reactant | acetonitrile | 50 mmol, 2.6 mL | C(C)#N | C2H3N
reactant | isopropyl iodide | 0.98 mmol, 0.098 mL | C(C)(C)I | C3H7I
reactant | isopropyl iodide | 15 equivalents | C(C)(C)I | C3H7I
reactant | isopropyl iodide | 15 equivalents | C(C)(C)I | C3H7I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 15 equivalents | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(6-((2,4-dimethoxybenzyl)amino)-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoate | 0.045 g, 70% | COC1=C(CNC2=C3N=CN(C3=NC=N2)[C@@H]2C[C@@H]([C@@H]3[C@H]2OC(O3)(C)C)CN(C3CC(C3)CCC(=O)OCC)C(C)C)C=CC(=C1)OC | C35H50N6O6
